US06194425B1
Using the general method of Example 92, cyclohexanecarbonyl chloride (94 μL, 0.7 mmol) was reacted with 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine (0.2 g, 0.7 mmol) to provide 0.2 g of N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-1-cyclohexanecarboxamide as a white powder, m.p. 188-190° C. Analysis: Calculated for C22H30N6O: % C, 66.98; % H, 7.66; % N, 21.30; Found: % C, 66.72; % H, 7.57; % N, 21.48. HRMS (EI) calcd for C22H30N6O (M+) 394.2481 found 394.2475.

reactant | cyclohexanecarbonyl chloride | 0.7 mmol, 94 μL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine | 0.7 mmol, 0.2 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCN)CCCC | C15H20N6
product | N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-1-cyclohexanecarboxamide | 0.2 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCNC(=O)C2CCCCC2)CCCC | C22H30N6O
